US07229999B2
5-(4-Chloro-phenyl)-N-(3-hydroxy-2,2-dimethyl-propyl)-6-(2-methoxy-ethoxy)-nicotinamide
The title compound was synthesized in analogy to Example 102, using 5-bromo-6-hydroxy-nicotinic acid methyl ester, 2-methoxyethanol, (4-chloro-phenyl)-boronic acid and 3-amino-2,2-dimethyl-1-propanol as starting materials to yield 5-(4-chloro-phenyl)-N-(3-hydroxy-2,2-dimethyl-propyl)-6-(2-methoxy-ethoxy)-nicotinamide. MS (ISP) 393.1 (M+H)+.

reactant | 5-bromo-6-hydroxy-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)Br)O)=O | C7H6BrNO3
reactant | (4-chloro-phenyl)-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | 3-amino-2,2-dimethyl-1-propanol | NCC(CO)(C)C | C5H13NO
reactant | 2-methoxyethanol | COCCO | C3H8O2
product | 5-(4-chloro-phenyl)-N-(3-hydroxy-2,2-dimethyl-propyl)-6-(2-methoxy-ethoxy)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC(CO)(C)C)C1)OCCOC | C20H25ClN2O4
